US04698337
A solution of 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer, 1.7 g.) and conc. hydrochloric acid (1.5 g.) in methanol (30 ml.) was stirred at room temperature for 3 hours. After evaporating the solvent in vacuo, methanol was added to the residue and then evaporated in vacuo again. The residue was dissolved in water (30 ml.) and adjusted to pH 3.5 with a sodium bicarbonate saturated aqueous solution under ice-cooling. The solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" (trademark, manufactured by Mitsubishi Chemical Industries Ltd.) and eluted with 30% aqueous isopropyl alcohol. The eluate was concentrated in vacuo, and the residue was lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer, 1.1 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 1.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C22H27N7O10S2
reactant | hydrochloric acid | 1.5 g | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 1.1 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)=NOCCN | C16H19N7O7S2
